US05482941
2-(5-Imidazolyl-2-n-propoxyphenyl)-8-methylquinazolin-4(3H)-one
A stirred mixture of 2-(5-bromo-2-n-propoxyphenyl)-8-methylquinazolin-4(3H)-one (Preparation 11; 0.6 g, 0.0016 mol), anhydrous potassium carbonate (0.22 g, 0.0016 tool), copper bronze (0.1 g, 0.0016 mol), iodine (0.051 g, 0.004 mol), imidazole (0.55 g, 0.008 mol) and 1-methyl-2-pyrrolidinone (20 ml) was heated at 180° C. under a nitrogen atmosphere for 6 hours. The mixture was cooled and poured into water (150 ml), then the resulting mixture extracted with a dichloromethane-methanol mixture (9:1, 4×40 ml ). The organic extracts were combined, dried (Na2SO4) and evaporated under vacuum. The semi-solid residue was chromatographed on silica gel (10 g) using a methanol in dichloromethane elution gradient (0-4% ). Evaporation of the appropriate fractions gave the title compound which crystallized from ethyl acetate as colorless needles (0.016 g, 3%); Rf 0.5 (silica; dichloromethane-methanol 95:5).

reactant | 2-(5-bromo-2-n-propoxyphenyl)-8-methylquinazolin-4(3H)-one | 0.0016 mol, 0.6 g | BrC=1C=CC(=C(C1)C1=NC2=C(C=CC=C2C(N1)=O)C)OCCC | C18H17BrN2O2
reactant | potassium carbonate | 0.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodine | 0.004 mol, 0.051 g | II | I2
reactant | imidazole | 0.008 mol, 0.55 g | N1C=NC=C1 | C3H4N2
catalyst | copper bronze | 0.0016 mol, 0.1 g | [Cu] | Cu
solvent | water | 150 ml | O | H2O
solvent | 1-methyl-2-pyrrolidinone | 20 ml | CN1C(CCC1)=O | C5H9NO
product | 2-(5-Imidazolyl-2-n-propoxyphenyl)-8-methylquinazolin-4(3H)-one | N1C(=NC=C1)C=1C=CC(=C(C1)C1=NC2=C(C=CC=C2C(N1)=O)C)OCCC | C21H20N4O2
